US07495103B2
To a cooled solution of 2-methyl-2-(4-nitrophenyl)propan-1-amine (600 mg, 3.1 mmol) and 1N NaOH (3 mL, 3 mmol) in 1,4-dioxane (6 mL) and water (3 mL) was added Boc2O (742 mg, 3.4 mmol) at 0° C. The reaction was allowed to warm to room temperature and stirred overnight. The reaction was made acidic with 5% KHSO4 solution and then extracted with ethyl acetate. The organic layer was dried over MgSO4 and concentrated to give tert-butyl 2-methyl-2-(4-nitrophenyl)propylcarbamate (725 mg, 80%), which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 8.11 (d, J=8.9 Hz, 2H), 7.46 (d, J=8.8 Hz, 2H), 3.63 (s, 2H), 1.3-1.29 (m, 15H).

reactant | 2-methyl-2-(4-nitrophenyl)propan-1-amine | 3.1 mmol, 600 mg | CC(CN)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H14N2O2
reactant | NaOH | 3 mmol, 1N, 3 mL | [OH-].[Na+]
reactant | Boc2O | 3.4 mmol, 742 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
product | tert-butyl 2-methyl-2-(4-nitrophenyl)propylcarbamate | 725 mg, 80% | CC(CNC(OC(C)(C)C)=O)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C15H22N2O4
